US07429660B2
1-Bromo-7-nitro-thianthrene
2-(2-Bromo-phenylsulfanyl)-5-nitro-benzenesulfinic acid (208.5 g, 557 mmol) thinly ground was dissolved slowly in methanesulfonic acid (2 litre) with stirring. The mixture was stirred and heated at 50° C. for 17 hours. The solution was poured onto ice (5 L) with stirring, then filtered and the solid collected. The residue was suspended in water (500 ml) and then basified to pH 8 with concentrated ammonia. The solid was then filtered, suspended into methanol (1 L) and filtered again. The solid was then dried in a desiccator under vacuum to give the title compound (115 g, 61%). m/z (LC-MS, ESP), RT=5.53 min (no ionisation). 1HNMR (300 MHz, CDCl3): δH=7.15 (1H, t), 7.45 (1H, dd), 7.58 (1H, dd), 7.67 (1H, d), 8.11 (1H, dd), 8.31 (1H, d).

reactant | 2-(2-Bromo-phenylsulfanyl)-5-nitro-benzenesulfinic acid | 557 mmol, 208.5 g | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)O | C12H8BrNO4S2
solvent | methanesulfonic acid | 2 litre | CS(=O)(=O)O | CH4O3S
product | 1-Bromo-7-nitro-thianthrene | 115 g, 61% | BrC1=CC=CC=2SC3=CC(=CC=C3SC12)[N+](=O)[O-] | C12H6BrNO2S2
